US05136090
To 5 ml of a DMF solution containing 100 mg (0.2591 mmol) of 2,2'-dihydroxy-5,5'-bis (2-ethoxycarbonylethyl) biphenyl and 331.3 μl (2.591 mmol) of pentyl bromide, there were added 42.9 mg (0.3109 mmol) of anhydrous potassium carbonate and a small amount of copper powder and the resulting mixture was agitated overnight at room temperature. The reaction mixture was filtered by suction through Celite to remove the solid matter and the filtrate was washed with ethyl acetate. After the solvent in the filtrate was evaporated off under reduced pressure, the evaporated residue was dissolved in chloroform. This solution was washed with dilute hydrochloric acid, dilute aqueous sodium bicarbonate, water and aqueous sodium chloride solution in this sequence and was dried by adding anhydrous sodium sulfate. The residue obtained after the solvent had been evaporated off was purified by silica gel column chromatography (with 7 g of WAKO-gel C-200, eluent: hexane and toluene/ethyl acetate of 50/1) to obtain 97.2 mg (0.2131 mmol, 82%) of 2-pentyloxy-2'-hydroxy-5,5'-bis (2ethoxycarbonylethyl) biphenyl as an oily product.

reactant | 2,2'-dihydroxy-5,5'-bis (2-ethoxycarbonylethyl) biphenyl | 0.2591 mmol, 100 mg | OC1=C(C=C(C=C1)CCC(=O)OCC)C1=C(C=CC(=C1)CCC(=O)OCC)O | C22H26O6
reactant | pentyl bromide | 2.591 mmol, 331.3 μl | C(CCCC)Br | C5H11Br
reactant | potassium carbonate | 0.3109 mmol, 42.9 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | [Cu] | Cu
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-pentyloxy-2'-hydroxy-5,5'-bis (2ethoxycarbonylethyl) biphenyl | 0.2131 mmol, 97.2 mg, 82% | C(CCCC)OC1=C(C=C(C=C1)CCC(=O)OCC)C1=C(C=CC(=C1)CCC(=O)OCC)O | C27H36O6
